US04284631
2-(2-Aminothiazol-4-yl)-2-(4-fluorobenzyloxyimino)acetic acid (syn isomer, 23.4 g.), bis (trimethylsilyl)acetamide (32.2 g.), 2,2,2-trifluoroacetic anhydride (49.9 g.) and dry ethyl acetate (234 ml.) were treated in a similar manner to that of Example P - (5) to give 2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]-2-(4-fluorobenzyl-oxyimino) acetic acid (syn isomer, 18.9 g.), m.p. 180°-182° C.

reactant | 2-(2-Aminothiazol-4-yl)-2-(4-fluorobenzyloxyimino)acetic acid | 23.4 g | NC=1SC=C(N1)C(C(=O)O)=NOCC1=CC=C(C=C1)F | C12H10FN3O3S
reactant | bis (trimethylsilyl)acetamide | 32.2 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | 2,2,2-trifluoroacetic anhydride | 49.9 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | ethyl acetate | 234 ml | C(C)(=O)OCC | C4H8O2
product | 2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]-2-(4-fluorobenzyl-oxyimino) acetic acid | 18.9 g | FC(C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC1=CC=C(C=C1)F)(F)F | C14H9F4N3O4S
